### ISSUE TITLE
Misformalization in SpherePacking/ModularForms/ResToImagAxis.lean

### ISSUE THREAD

**Issue by llllvvuu** [thefundamentaltheor3m/Sphere-Packing-Lean#215]
After `ResToImagAxis.SlashActionS`, put:
```lean
example : False := by
  have := @ResToImagAxis.SlashActionS
  contrapose! this
  use 1;
  simp +decide [ ModularForm.SL_slash, ModularForm.slash_def ];
  refine' ⟨ 1, 2, _, _ ⟩ <;> norm_num [ Complex.ext_iff ];
  unfold ResToImagAxis; norm_num
```

This counterexample was found by [Aristotle](https://aristotle.harmonic.fun/).

**Comment by seewoo5** [comment]
Thank you very much! It will be fixed in #216.
By the way, how did Aristotle find it? Did you somehow ask it to prove the statement, and it figured out that the statement is false?
